US06822069B2
(1) Synthesis of 2,3-di(4-bromophenyl)-5-nitroquinoxaline
1.53 g (10 mmol) of 2,3-diaminonitrobenzene and 3.68 g (10 mmol) of 4,4′-dibromobenzil were dissolved in 80 g of a 1:1 mixed solvent of acetic acid/methanol, and reaction was allowed at 70° C. for 30 hr. After the reaction was over, the solvent was removed, and the reaction product was extracted on a silica gel column.

reactant | 2,3-diaminonitrobenzene | 10 mmol, 1.53 g | NC1=C(C=CC=C1N)[N+](=O)[O-] | C6H7N3O2
reactant | 4,4′-dibromobenzil | 10 mmol, 3.68 g | BrC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)Br | C14H8Br2O2
solvent | acetic acid methanol | C(C)(=O)O.CO
product | 2,3-di(4-bromophenyl)-5-nitroquinoxaline | BrC1=CC=C(C=C1)C1=NC2=CC=CC(=C2N=C1C1=CC=C(C=C1)Br)[N+](=O)[O-] | C20H11Br2N3O2
